US05610153
b) (S)-3-Amino-5-(p-isopropylbenzyl)-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine hydrochloride
55 g of (S)-3-(tert-butoxycarbonylamino)-5-(p-isopropylbenzyl)-2,3,4,5-tetrahydro-1,5-benzoxazepin-4-one are dissolved in 180 ml of approximately 5 hydrochloric acid in ethyl acetate, foaming occurring. After stirring for two hours, the ochre-coloured suspension is concentrated and recrystallised from ether. The hygroscopic product has a m.p. of 215° C. (decomp.).

reactant | (S)-3-(tert-butoxycarbonylamino)-5-(p-isopropylbenzyl)-2,3,4,5-tetrahydro-1,5-benzoxazepin-4-one | 55 g | C(C)(C)(C)OC(=O)N[C@H]1COC2=C(N(C1=O)CC1=CC=C(C=C1)C(C)C)C=CC=C2 | C24H30N2O4
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-3-Amino-5-(p-isopropylbenzyl)-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine hydrochloride | Cl.N[C@H]1COC2=C(N(C1=O)CC1=CC=C(C=C1)C(C)C)C=CC=C2 | InChI=1S/C19H22N2O2.ClH/c1-13(2)15-9-7-14(8-10-15)11-21-17-5-3-4-6-18(17)23-12-16(20)19(21)22;/h3-10,13,16H,11-12,20H2,1-2H3;1H/t16-;/m0./s1
